US09056859B2
A mixture of [6-(1H-tetrazol-1-yl)pyridin-3-yl]acetic acid (65 mg, 0.31 mmol), N-Boc-piperazine (88 mg, 0.47 mmol), HOBt (64 mg, 0.47 mmol), EDC (90 mg, 0.47 mmol) and Et3N (96 mg, 0.95 mmol) in DCM (2 mL) was stirred 12 hours at room temperature. Water was added and the mixture was extracted with DCM. The combined organic layers were washed with brine, dried over anhydrous Na2SO4, concentrated and the residue was purified by prep-TLC to give tert-butyl 4-{[6-(1H-tetrazol-1-yl)pyridin-3-yl]acetyl}piperazine-1-carboxylate. MS m/z 374 (M+1)+. 1H-NMR (400 MHz, CDCl3) δ 9.45 (s, 1H), 8.33 (s, 1H), 7.98˜8.01 (m, 1H), 7.82˜7.85 (m, 1H), 3.73 (s, 2H), 3.56˜3.58 (m, 2H), 3.46˜3.47 (m, 2H), 3.36˜3.39 (m, 4H).

reactant | [6-(1H-tetrazol-1-yl)pyridin-3-yl]acetic acid | 0.31 mmol, 65 mg | N1(N=NN=C1)C1=CC=C(C=N1)CC(=O)O | C8H7N5O2
reactant | N-Boc-piperazine | 0.47 mmol, 88 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | HOBt | 0.47 mmol, 64 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.47 mmol, 90 mg
reactant | Et3N | 0.95 mmol, 96 mg | CCN(CC)CC | C6H15N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | tert-butyl 4-{[6-(1H-tetrazol-1-yl)pyridin-3-yl]acetyl}piperazine-1-carboxylate | N1(N=NN=C1)C1=CC=C(C=N1)CC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C17H23N7O3
